US06184389B2
N-FMOC-trans-3,4-bis-(Carboxymethyl)-Pyrrolidine
N-Benzyl-trans-3,4-bis-(Carboxymethyl)-Pyrrolidine is dissolved in ethanol, and a catalytic amount of 10% Pd/C is added. The suspension is shaken under 3 atm H2 overnight. The catalyst is filtered, the solvent removed and the residue and Na2CO3 (1.3 eq) are suspended in H2O/Dioxane (1:1) (0.1M). Fluorenylmethyl chloroformate (1.1 eq) in toluene is added dropwise. The temperature of the reaction is not allowed to rise above 25° C. during the addition. The mixture is stirred vigorously overnight, acidified to pH 3 with conc HCl, and extracted twice with ethyl acetate. The organic extract is washed with brine, dried with MgSO4, filtered and the solvent removed in vacuo. The product is purified by chromatography.

reactant | N-Benzyl-trans-3,4-bis-(Carboxymethyl)-Pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)CC(=O)O)CC(=O)O | C15H19NO4
reactant | Na2CO3 | 1.3 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Fluorenylmethyl chloroformate | 1.1 eq | ClC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12 | C15H11ClO2
reactant | HCl | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
solvent | H2O Dioxane | 0.1M | O.O1CCOCC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | [Pd] | Pd
product | N-FMOC-trans-3,4-bis-(Carboxymethyl)-Pyrrolidine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1C[C@H]([C@@H](C1)CC(=O)O)CC(=O)O | C23H23NO6
